US09260408B2
[E] Ethanesulfonic acid [5-(8-chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide
Under argon protection, bis(triphenylphosphine)palladium(II)chloride (4 mg, 0.05 mmol) followed by 1 N aqueous Na2CO3 solution (1 mL), was added to a solution of 8-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (160 mg, 0.5 mmol) and ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide (intermediate A-11, 158 mg, 0.6 mmol) in DMF (3 mL). The resulting reaction mixture was then heated in a microwave at 110° C. for 45 min. After cooling to room temperature, the reaction mixture was diluted with EtOAc (5 mL) and poured into a satd. aq. solution of NaHCO3 (10 mL). The aqueous layer was extracted with EtOAc (3×5 mL). Combined organics were washed with water and brine (20 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give a crude product which was then purified by prep-HPLC to give title compound (65 mg, 45%) as a white solid. MS: 394.1 (M+H+)+.

reactant | Na2CO3 | 1 N, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 8-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.5 mmol, 160 mg | ClC=1C=C(C=C2CCC(N(C12)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BClNO3
reactant | ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide | 0.6 mmol, 158 mg | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.05 mmol, 4 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | Ethanesulfonic acid [5-(8-chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide | 65 mg, 45% | ClC=1C=C(C=C2CCC(N(C12)C)=O)C=1C=C(C=NC1)CNS(=O)(=O)CC | C18H20ClN3O3S
